US08859574B2
Step 1: tert-Butyl 3-(2,5-dimethyl-4-nitrophenyl)azetidine-1-carboxylate
Prepared from tert-butyl 3-iodoazetidine-1-carboxylate and 1-bromo-2,5-dimethyl-4-nitrobenzene by following the general protocol as described in Billotte, S. Synlett 1998, 379.

reactant | tert-butyl 3-iodoazetidine-1-carboxylate | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | 1-bromo-2,5-dimethyl-4-nitrobenzene | BrC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8BrNO2
product | tert-Butyl 3-(2,5-dimethyl-4-nitrophenyl)azetidine-1-carboxylate | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1CN(C1)C(=O)OC(C)(C)C | C16H22N2O4
